US09163003B2
N-(2,4-dimethoxybenzyl)-3,4-dihydro-2H-pyrano[2,3-d]pyridazin-5-amine
A mixture of 5-chloro-3,4-dihydro-2H-pyrano[2,3-d]pyridazine (150 mg, 0.879 mmol), N,N-diisopropylethylamine (0.154 mL, 114 mg, 0.879 mmol), and 2,4-dimethoxybenzylamine (294 mg, 1.76 mmol) in isopropanol (2 mL) was heated in a sealed tube 18 hours at 115° C. and then 4.5 hours at 145° C. before addition of excess 2,4-dimethoxybenzylamine (about 2 g, 12 mmol). The reaction was stirred at 145° C. for 18 hours. After cooling to room temperature, isopropanol was removed in vacuo. The crude was then treated with diethyl ether (30 mL). A tan solid was removed by filtration. The filtrate was washed twice with small amounts of saturated aqueous ammonium chloride. The organic layer was dried over sodium sulfate, filtered, and concentrated down. The crude was purified by silica gel chromatography with a 0 to 10% methanol/dichloromethane gradient to afford the title compound (159 mg) as an amber foamy oil. MS (ESI) [m/e, (M)+]=301.8. 1H NMR (400 MHz, chloroform-d) δ ppm 8.22 (s, 1H), 7.35 (d, J=8.08 Hz, 1H), 6.36-6.56 (m, 2H), 4.73 (d, J=5.56 Hz, 2H), 4.37-4.56 (m, 1H), 4.11-4.24 (m, 2H), 3.86 (s, 3H), 3.81 (s, 3H), 2.27-2.31 (m, 2H), 2.04-2.11 (m, 2H).

reactant | 5-chloro-3,4-dihydro-2H-pyrano[2,3-d]pyridazine | 0.879 mmol, 150 mg | ClC1=C2C(=CN=N1)OCCC2 | C7H7ClN2O
reactant | N,N-diisopropylethylamine | 0.879 mmol, 0.154 mL, 114 mg | C(C)(C)N(C(C)C)CC | C8H19N
reactant | 2,4-dimethoxybenzylamine | 1.76 mmol, 294 mg | COC1=C(CN)C=CC(=C1)OC | C9H13NO2
reactant | 2,4-dimethoxybenzylamine | 12 mmol, about 2 g | COC1=C(CN)C=CC(=C1)OC | C9H13NO2
solvent | isopropanol | 2 mL | C(C)(C)O | C3H8O
product | N-(2,4-dimethoxybenzyl)-3,4-dihydro-2H-pyrano[2,3-d]pyridazin-5-amine | 159 mg | COC1=C(CNC2=C3C(=CN=N2)OCCC3)C=CC(=C1)OC | C16H19N3O3
